US08084448B2
B. 3-Vinylbenzamide
3-Vinylbenzoyl chloride is saturated with ammonia gas to afford an immediate precipitate. This mixture is poured into EtOAc and extracted with water and brine. The EtOAc is dried, filtered, and concentrated to afford the title compound: mp=128-130° C.; 1H NMR (CDCl3) δ 7.86 (d, J=1.3 Hz, 1H), 7.66 (dd, J=8.6, 1.0 Hz, 1H), 7.57 (d, 7.8 Hz, 1H), 7.41 (t, 7.8 Hz, 1H), 6.75 (dd, J=17.4, 10.9 Hz, 1H), 6.05 (br s, 1H), 5.83 (d, J=17.9 Hz, 1H), 5.61 (br s, 1H), 5.34 (d, J=10.9 Hz, 1H).

reactant | 3-Vinylbenzoyl chloride | C(=C)C=1C=C(C(=O)Cl)C=CC1 | C9H7ClO
reactant | ammonia | N | H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-Vinylbenzamide | C(=C)C=1C=C(C(=O)N)C=CC1 | C9H9NO
